US04304914
Ethyl 1,4,5,6-Tetrahydro-2-methyl-4(2-trifluoromethylphenyl)-5-oxo-6-(2-trifluoromethylphenyl)-7-phenyl-1,6-naphthyridine-3-carboxylate
This product is obtained using the procedure of Example 1 from diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate and N-(2-trifluoromethylphenyl)-benzimidoyl chloride (4.7 g, 15.5%).

reactant | diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | FC(C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)(F)F | C20H22F3NO4
reactant | N-(2-trifluoromethylphenyl)-benzimidoyl chloride | 4.7 g | FC(C1=C(C=CC=C1)N=C(C1=CC=CC=C1)Cl)(F)F | C14H9ClF3N
product | Ethyl 1,4,5,6-Tetrahydro-2-methyl-4(2-trifluoromethylphenyl)-5-oxo-6-(2-trifluoromethylphenyl)-7-phenyl-1,6-naphthyridine-3-carboxylate | CC=1NC=2C=C(N(C(C2C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)=O)C1=C(C=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C32H24F6N2O3
